US05886044
a) Preparation of 2-amino-4-trifluoromethylphenol
A mixture of 4-trifluoromethyl-2-nitrophenol(1.0 g, 4.8 mmol) and tin (II) chloride (5.4 g, 24.2 mmol) in ethanol(150 mL) was heated at 80° C. under argon. After 2 hours, the starting material had disappeared and the solution was allowed to cool down and then poured into ice. The pH was made slightly basic (pH7-8), by addition of solid NaOH, before being extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (4% MeOH/CH2Cl2) gave the desired product(708 mg, 83%). 1H NMR (CD3OD): δ 6.87 (s, 1H), 6.80 (d, 1H), 6.69 (d, 1H).

reactant | 4-trifluoromethyl-2-nitrophenol | 4.8 mmol, 1.0 g | FC(C1=CC(=C(C=C1)O)[N+](=O)[O-])(F)F | C7H4F3NO3
reactant | tin (II) chloride | 24.2 mmol, 5.4 g | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-amino-4-trifluoromethylphenol | 708 mg, 83% | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
